US09260425B2
(R)-1-(3-bromo-6-(5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-amine 290
Following the procedures as described in Example 241 and starting with 3-(5-bromo-6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine and (R)-tert-butyl piperidin-3-ylcarbamate, 290 was obtained as an off-white solid (19.7 mg, 35.9%) over two steps. 1H NMR (400 MHz, DMSO) δ 9.31 (s, 1H), 9.22 (s, 1H), 9.03 (s, 1H), 8.59 (d, J=4.7 Hz, 1H), 8.46 (d, J=8.0 Hz, 1H), 8.05 (d, J=8.1 Hz, 1H), 7.70 (d, J=8.1 Hz, 1H), 7.62 (dd, J=11.8, 7.1 Hz, 1H), 7.54 (ddd, J=12.7, 7.2, 4.0 Hz, 2H), 3.92 (d, J=9.3 Hz, 1H), 3.84 (d, J=12.1 Hz, 1H), 2.88 (d, J=12.9 Hz, 2H), 2.81-2.69 (m, 1H), 1.95 (d, J=12.6 Hz, 1H), 1.90-1.69 (m, 2H), 1.26 (dd, J=22.3, 7.8 Hz, 1H); ESI MS m/z=450.1 (M+1)

reactant | 3-(5-bromo-6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | BrC=1C=CC(=NC1F)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C22H23BrFN5OSi
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | (R)-1-(3-bromo-6-(5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-amine | 19.7 mg, 35.9% | BrC=1C(=NC(=CC1)C1=NNC2=CN=C(C=C21)C=2C=NC=CC2)N2C[C@@H](CCC2)N | C21H20BrN7
